US07161005B2
[2,2′;6′,2″]Terpyridin-4′-yl-hydrazine (Referred to as L4 Below)
4 ml (126 mmol) of hydrazine are added to 600 mg (2.2 mmol) of 4′-chloro-[2,2′;6′,2″]-terpyridine in 12 ml of 2-butanol. The mixture is heated at reflux for 17 hours and cooled, and [2,2′;6′,2″]terpyridin-4′-yl-hydrazine is filtered off in the form of a white solid.

reactant | hydrazine | 126 mmol, 4 ml | NN | H4N2
reactant | 4′-chloro-[2,2′;6′,2″]-terpyridine | 2.2 mmol, 600 mg | ClC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C15H10ClN3
solvent | 2-butanol | 12 ml | CC(CC)O | C4H10O
product | [2,2′;6′,2″]Terpyridin-4′-yl-hydrazine | N1=C(C=CC=C1)C1=NC(=CC(=C1)NN)C1=NC=CC=C1 | C15H13N5
